US03985896
A mixture of 13.8 g. (0.044 mol.) of 3-acetyl-2-(4-methoxynaphthyl)benzofuran and 100 g. of pyridine hydrochloride was heated at 185° for 4.5 hours. The hot reaction mixture was poured into an ice-dilute hydrochloric acid mixture and the aqueous solution was extracted with ether. The extract was dried (MgSO4) and evaporated to give 3-acetyl-2-(4-hydroxynaphthyl)benzofuran, m.p. 212°-216°.

reactant | 3-acetyl-2-(4-methoxynaphthyl)benzofuran | 0.044 mol | C(C)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C1=CC=CC=C21)OC | C21H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 3-acetyl-2-(4-hydroxynaphthyl)benzofuran | C(C)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C1=CC=CC=C21)O | C20H14O3
